US08053440B2
A mixture of 2-(4-(2-aminoethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one (0.060 g, 0.162 mmol), 4-methoxybenzenesulfonyl chloride (0.044 mg, 0.211 mmol), and triethylamine (29.4 μL, 0.211 mmol) in CH2Cl2 (812 μL) was stirred at room temperature for 3 h. The mixture was chromatographed directly on silica gel to yield N-(2-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenoxy)ethyl)-4-methoxybenzenesulfonamide (0.046 g, 53%) as a white solid after lyophilization from MeCN/H2O. Selected data: 1H NMR (300 MHz, DMSO-d6) δ ppm 11.81 (s, 1H), 7.88 (s, 2H), 7.83-7.73 (m, 3H), 7.17-7.07 (m, 2H), 6.73 (d, J=2.31 Hz, 1H), 6.52 (d, J=2.29 Hz, 1H), 3.91-3.75 (m, 11H), 3.12 (q, J=5.75 Hz, 2H), 2.24 (s, 6H); MS (APCI) m/z 540 [M+H]+.

reactant | 2-(4-(2-aminoethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.162 mmol, 0.060 g | NCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C20H23N3O4
reactant | 4-methoxybenzenesulfonyl chloride | 0.211 mmol, 0.044 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | triethylamine | 0.211 mmol, 29.4 μL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 812 μL | C(Cl)Cl | CH2Cl2
product | N-(2-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenoxy)ethyl)-4-methoxybenzenesulfonamide | 0.046 g, 53% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC(=C(OCCNS(=O)(=O)C2=CC=C(C=C2)OC)C(=C1)C)C)=O | C27H29N3O7S
